US06303593B1
4-(2-(Phenylmercapto)ethyl)piperidine
To a solution of 1.47 g (3.71 mmol) of 1-(2,2,2-trichloroethoxycarbonyl)-4-(2-(phenylmercapto)ethyl)piperidine in 20 mL of glacial acetic acid was heated at 40° C. To this solution was added portionwise 2 g of zinc powder over a period of 1 h with vigorous stirring. After 24 h at 40° C., the reaction mixture was cooled to rt and carefully poured into 250 mL of sat'd NaHCO3 solution. The mixture was extracted 5 times with CH2Cl2 and the combined organic fractions were washed with sat'd NaCl solution, and dried over MgSO4 and filtered. The filtrate was concentrated to give the title compound.

reactant | 1-(2,2,2-trichloroethoxycarbonyl)-4-(2-(phenylmercapto)ethyl)piperidine | 3.71 mmol, 1.47 g | ClC(COC(=O)N1CCC(CC1)CCSC1=CC=CC=C1)(Cl)Cl | C16H20Cl3NO2S
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2 g | [Zn] | Zn
product | 4-(2-(Phenylmercapto)ethyl)piperidine | C1(=CC=CC=C1)SCCC1CCNCC1 | C13H19NS
